US04985427
1-(3-Cyanophenyl)-dihydro-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-(3-cyanophenyl)hydrazino]acetate (700 mg) was dissolved in dry acetonitrile (10 ml) under nitrogen. Methyl isocyanate (0.7 ml) was added to the reaction mixture which was then heated at reflux for 1.5 h. The solvent was removed in vacuo and the oily residue was dissolved in methanol (10 ml) under nitrogen. Sodium methoxide (2.17M solution in methanol; 3.9 ml) was added and the solution was stirred at room temperature for 2 h. The reaction was poured into pH 6.5 phosphate buffer (100 ml) and extracted with ethyl acetate (3×80 ml). The combined, dried organic extracts were concentrated at reduced pressure to give a solid which was triturated with ether (3×20 ml) to give the title compound (640 mg), m.p. 174°-178°. N.m.r. indicated 0.084 mol ethyl acetate.

reactant | Methyl [1-(3-cyanophenyl)hydrazino]acetate | 700 mg | C(#N)C=1C=C(C=CC1)N(N)CC(=O)OC | C10H11N3O2
reactant | Methyl isocyanate | 0.7 ml | CN=C=O | C2H3NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(3-Cyanophenyl)-dihydro-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 640 mg | C(#N)C=1C=C(C=CC1)N1NC(N(C(C1)=O)C)=O | C11H10N4O2
